### PR TITLE
[Merged by Bors] - feat: if the order topology for a dense linear ordering is discrete, the space has at most one point

### PR DESCRIPTION
**Pull request by ocfnash**
Co-authored-by: Aristotle Harmonic <aristotle-harmonic@harmonic.fun>

See also [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Characterisation.20of.20the.20integers/with/546911488)

---

Intended to help with #30471

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
I think you may have pushed a commit to the wrong PR branch by mistake.

**Comment by ocfnash** [comment]
> I think you may have pushed a commit to the wrong PR branch by mistake.

Oh no I hope not (I have been working on multiple things). However if you're referring to https://github.com/leanprover-community/mathlib4/pull/30856/commits/a113ce9fc8f6b09c1acfb927f8060e5192974ac9 then this was intended. The new `Subsingleton` instance causes the affected lemma to time out (even if we drop the new instance priority to 100, which arguably I should do anyway) because it spends loads of time trying to figure out the universe for the `PUnit`.

File: Mathlib/Topology/Order/DenselyOrdered.lean [hunk 1]
```diff
@@ -334,6 +334,24 @@ instance (x : α) [Nontrivial α] : NeBot (𝓝[≠] x) := by
...
+    rcases lt_trichotomy a b with h | rfl | h
+    · simpa using lt_of_le_of_lt (this a b) h
+    · rfl
+    · simpa using lt_of_le_of_lt (this b a) h
+  intro a b
+  by_contra! contra
+  replace contra : b ∈ Ioo a b := by
+    rw [← (isClosed_discrete (Ioo a b)).closure_eq, closure_Ioo contra.ne]
+    simpa using contra.le
+  simp at contra
```
Comment (loefflerd) [inline Mathlib/Topology/Order/DenselyOrdered.lean]:
```suggestion
lemma DenselyOrdered.subsingleton_of_discreteTopology [DiscreteTopology α] : Subsingleton α := by
  suffices ∀ a b : α, b ≤ a from ⟨fun a b ↦ le_antisymm (this b a) (this a b)⟩
  intro a b
  by_contra! contra
  suffices b ∈ Ioo a b by grind
  rw [← (isClosed_discrete (Ioo a b)).closure_eq, closure_Ioo contra.ne]
  grind
```

File: Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean [hunk 2]
```diff
@@ -212,7 +212,8 @@ theorem injectiveSeminorm_le_projectiveSeminorm :
     existsi PUnit, inferInstance, inferInstance
     ext x
     simp only [Seminorm.zero_apply, Seminorm.comp_apply, coe_normSeminorm]
-    rw [Subsingleton.elim (toDualContinuousMultilinearMap PUnit x) 0, norm_zero]
+    rw [Subsingleton.elim (toDualContinuousMultilinearMap PUnit.{(max (max uE uι) u𝕜) + 1} x) 0,
+      norm_zero]
```
Comment (loefflerd) [inline Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:216]: Is this needed now that `DenselyOrdered.subsingleton_of_discreteTopology` is de-instanced?

Comment (ocfnash) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:216]: No but I think it’s worth keeping. Happy to excise of course.

Comment (loefflerd) [reply Mathlib/Analysis/NormedSpace/PiTensorProduct/InjectiveSeminorm.lean:216]: Specifying the universe explicitly certainly can't do any harm I guess.

**Comment by loefflerd** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
